US08067362B2
5-(15-tert-Butoxycarbonyl-pentadecanoylamino)-isophthalic acid mono-tert-butyl ester
To a solution of hexadecandioic acid mono t-butyl ester (100 mg, 0.29 mmol) in dry DCM (2 ml), HOAt (44 mg, 0.29 mmol) and DCC (72 mg, 32 mmol) was added. The mixture was stirred at 50° C. for 1 h. The oil bath was removed. 5-Amino-isophthalic acid mono t-butyl ester (69 mg, 0.29) and DIPEA (0.07 ml, 0.32 mmol) was added. The mixture was stirred at RT over night under nitrogen. The yellow suspension was filtered and the filtrate was concentrated. The residue was redissolved in EtOAc and extracted with 0.1 N HCl (2×), brine (1×), dried (Na2SO4) and concentrated to give a white solid, which was purified twice by flash chromatography using EtOAc/Hept 1:2+5% AcOH. The title compound was obtained in 86% yield (0.140 g) as an oil containing an impurity.

reactant | hexadecandioic acid mono t-butyl ester | 0.29 mmol, 100 mg | C(C)(C)(C)OC(CCCCCCCCCCCCCCC(=O)O)=O | C20H38O4
reactant | HOAt | 0.29 mmol, 44 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | DCC | 32 mmol, 72 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 5-Amino-isophthalic acid mono t-butyl ester | 69 mg | C(C)(C)(C)OC(C1=CC(C(=O)O)=CC(=C1)N)=O | C12H15NO4
reactant | DIPEA | 0.32 mmol, 0.07 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | 5-(15-tert-Butoxycarbonyl-pentadecanoylamino)-isophthalic acid mono-tert-butyl ester | 86% yield | C(C)(C)(C)OC(C1=CC(C(=O)O)=CC(=C1)NC(CCCCCCCCCCCCCCC(=O)OC(C)(C)C)=O)=O | C32H51NO7
